US08202895B2
N-Allyl-2-(2-bromo-4-chlorobenzoyl)hydrazinecarboxamide
A quantity of 10.0 g (40.1 mmol) of 2-bromo-4-chlorobenzhydrazide was suspended in 100 ml of THF at 50° C. and admixed with 3.59 ml (40.9 mmol) of allyl isocyanate in solution in 50 ml of THF. Stirring was continued for 16 h at 50° C. The batch was then allowed to cool to RT and diluted with 50 ml of diethyl ether. The precipitated solid was filtered off with suction, washed with a little diethyl ether and dried in an HV. This gave 11.30 g (85% of theory) of the title compound.

reactant | 2-bromo-4-chlorobenzhydrazide | 40.1 mmol, 10.0 g | BrC1=C(C(=O)NN)C=CC(=C1)Cl | C7H6BrClN2O
reactant | allyl isocyanate | 40.9 mmol, 3.59 ml | C(C=C)N=C=O | C4H5NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-Allyl-2-(2-bromo-4-chlorobenzoyl)hydrazinecarboxamide | C(C=C)NC(=O)NNC(C1=C(C=C(C=C1)Cl)Br)=O | C11H11BrClN3O2
